US06992083B2
To a stirred solution of 100 mg (0.42 mmol) 4-methoxy-7-phenyl-benzooxazol-2-ylamine, 0.087 ml (0.62 mmol) triethylamine and 5.1 mg N,N-dimethyl-4-aminopyridine in 5 ml THF at room temperature was added dropwise a solution of 0.064 ml (0.54 mmol) 4-fluoro-benzoyl chloride in 2 ml THF and stirring continued at 65° C. for 16 h. The reaction mixture was then concentrated in vacuo. To the residue was added water, and the mixture was extracted three times with dichloromethane. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (1/4 then 4/1 ethyl acetate/hexane) followed by trituration in ether afforded 50 mg (33%) 4-fluoro-N-(4-methoxy-7-phenyl-benzooxazol-2-yl)-benzamide as a light yellow crystalline solid. EI-MS m/e (%): 362 (M+, 90), 123 ([FC6H4CO+, 100).

reactant | 4-methoxy-7-phenyl-benzooxazol-2-ylamine | 0.42 mmol, 100 mg | COC1=CC=C(C2=C1N=C(O2)N)C2=CC=CC=C2 | C14H12N2O2
reactant | triethylamine | 0.62 mmol, 0.087 ml | C(C)N(CC)CC | C6H15N
reactant | 4-fluoro-benzoyl chloride | 0.54 mmol, 0.064 ml | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
catalyst | N,N-dimethyl-4-aminopyridine | 5.1 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 4-fluoro-N-(4-methoxy-7-phenyl-benzooxazol-2-yl)-benzamide | 50 mg, 33% | FC1=CC=C(C(=O)NC=2OC3=C(N2)C(=CC=C3C3=CC=CC=C3)OC)C=C1 | C21H15FN2O3
